US05703050
b) Ethyl 3-(4-(ethoxyiminomethyl)phenyl)ureidoacetate hydrochloride
Dry HCl gas is introduced with stirring and cooling (0° C.) into a suspension of 2.3 g (9.3 mmol) of ethyl 3-(4-cyanophenyl)ureidoacetate in 50 ml of anhydrous ethanol. After 30 h, the mixture is concentrated in vacuo. The residue is stirred with ether and filtered off.

reactant | HCl | Cl | ClH
reactant | ethyl 3-(4-cyanophenyl)ureidoacetate | 9.3 mmol, 2.3 g | C(#N)C1=CC=C(C=C1)NC(NCC(=O)OCC)=O | C12H13N3O3
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 3-(4-(ethoxyiminomethyl)phenyl)ureidoacetate hydrochloride | Cl.C(C)ON=CC1=CC=C(C=C1)NC(NCC(=O)OCC)=O | InChI=1S/C14H19N3O4.ClH/c1-3-20-13(18)10-15-14(19)17-12-7-5-11(6-8-12)9-16-21-4-2;/h5-9H,3-4,10H2,1-2H3,(H2,15,17,19);1H
